US08420655B2
3-[1-tert-Butyl-5-(5-methoxy-pyridin-3-yl)-1H-benzimidazol-2-yl]-benzonitrile (0.480 g, 1.255 mmol) is dissolved in ethanol (5 mL). Hydroxylamine (1.0 mL, 50% in water) is added. The reaction mixture is heated under reflux for 6 hours. The solvent is removed in vacuum to give 3-[1-tert-butyl-5-(5-methoxy-pyridin-3-yl)-1H-benzimidazol-2-yl]-N-hydroxy-benzamidine (0.531 g, 100%) as a yellow solid.

reactant | 3-[1-tert-Butyl-5-(5-methoxy-pyridin-3-yl)-1H-benzimidazol-2-yl]-benzonitrile | 1.255 mmol, 0.480 g | C(C)(C)(C)N1C(=NC2=C1C=CC(=C2)C=2C=NC=C(C2)OC)C=2C=C(C#N)C=CC2 | C24H22N4O
reactant | Hydroxylamine | 1.0 mL | NO | H3NO
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 3-[1-tert-butyl-5-(5-methoxy-pyridin-3-yl)-1H-benzimidazol-2-yl]-N-hydroxy-benzamidine | 0.531 g, 100% | C(C)(C)(C)N1C(=NC2=C1C=CC(=C2)C=2C=NC=C(C2)OC)C=2C=C(C(=N)NO)C=CC2 | C24H25N5O2
